US04988695
1-(4-Hydroxy-2-methylphenyl)-2,3-dihydropyrrolo[3,2-c]-cinnoline hydrochloride
4-Chloro-3-(2-chloroethyl)cinnoline (1 g, 0.0044 mol) and 4-hydroxy-2-methylphenylamine (0.54 g, 0.0044 mol) in 1,4 dioxan (20 ml) were heated under reflux for 20 hours. The solid obtained was collected by filtration and dried. Recrystallization from ethanol gave the title compound, 0.4 g, m.p. >300°

reactant | 4-Chloro-3-(2-chloroethyl)cinnoline | 0.0044 mol, 1 g | ClC1=C(N=NC2=CC=CC=C12)CCCl | C10H8Cl2N2
reactant | 4-hydroxy-2-methylphenylamine | 0.0044 mol, 0.54 g | OC1=CC(=C(C=C1)N)C | C7H9NO
solvent | 1,4 dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 1-(4-Hydroxy-2-methylphenyl)-2,3-dihydropyrrolo[3,2-c]-cinnoline hydrochloride | Cl.OC1=CC(=C(C=C1)N1CCC=2N=NC=3C=CC=CC3C21)C | InChI=1S/C17H15N3O.ClH/c1-11-10-12(21)6-7-16(11)20-9-8-15-17(20)13-4-2-3-5-14(13)18-19-15;/h2-7,10,21H,8-9H2,1H3;1H
